US07910595B2
A mixture of 3-Fluoro-4-methyl-phenylamine was reacted with 4-chloro-3-nitrobenzoyl chloride using the procedure of Example 10A to provide 4-Chloro-N-(3-fluoro-4-methyl-phenyl)-3-nitro-benzamide which was reacted according to the conditions described in Examples 100A, 100B, and 100C to provide the title product.

reactant | 3-Fluoro-4-methyl-phenylamine | FC=1C=C(C=CC1C)N | C7H8FN
reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
product | 4-Chloro-N-(3-fluoro-4-methyl-phenyl)-3-nitro-benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)C)F)C=C1)[N+](=O)[O-] | C14H10ClFN2O3
